US08207164B2
d) N-[1-(5-Bromo-2-fluoro-phenyl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide
A solution of chloro-acetyl chloride (6.39 ml, 80 mmol) in 10 ml ACN was added dropwise to a mixture of 2-amino-2-(5-bromo-2-fluoro-phenyl)-propane-1,3-diol (5.3 g, 20 mmol) and K2CO3 (11.1 g, 80 mmol) in 90 ml ACN while the temperature did not rise above 35° C. The mixture was stirred for 2 h. MeOH (40 ml, 99 mmol) were added and after 5 min stirring the mixture was filtered over celite and washed with MeOH. The filtrate was acidified with citric acid solution (10%, aqueous) (pH 4-5) and partly evaporated. The remaining aqueous layer was extracted with EtOAc. The organic layer was washed with NaHCO3 solution (10%, aqueous) and brine, dried with Na2SO4 and evaporated to provide the title compound as an off-white solid.

reactant | chloro-acetyl chloride | 80 mmol, 6.39 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-amino-2-(5-bromo-2-fluoro-phenyl)-propane-1,3-diol | 20 mmol, 5.3 g | NC(CO)(CO)C1=C(C=CC(=C1)Br)F | C9H11BrFNO2
reactant | K2CO3 | 80 mmol, 11.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | MeOH | 99 mmol, 40 ml | CO | CH4O
solvent | ACN | 10 ml | C(C)#N | C2H3N
solvent | ACN | 90 ml | C(C)#N | C2H3N
product | N-[1-(5-Bromo-2-fluoro-phenyl)-2-hydroxy-1-hydroxymethyl-ethyl]-2-chloro-acetamide | BrC=1C=CC(=C(C1)C(CO)(CO)NC(CCl)=O)F | C11H12BrClFNO3
